US07964732B2
To a solution of tert-butyl 2-trifluoromethylquinoline-6-carboxylate (2 g, 7 mmol) in dichloromethane (50 mL), cooled to 0° C., was added trifluoroacetic acid (5.18 mL, 67.2 mmol) and the reaction mixture allowed to warm to room temperature and stirred for 36 h. The reaction mixture was concentrated under reduced pressure and the crude product obtained triturated with heptane (4×10 mL) to give 2-trifluoromethylquinoline-6-carboxylic acid (1.58 g, 98%). 1H NMR (400 MHz, CD3OD) δ 7.93 (1H, d), 8.24 (1H, d), 8.42 (1H, dd), 8.73 (1H, d), 8.78 (1H, d). LCMS: Retention time: 1.38 min. MS (ESI) m/z 242 (M+H)+.

reactant | tert-butyl 2-trifluoromethylquinoline-6-carboxylate | 7 mmol, 2 g | FC(C1=NC2=CC=C(C=C2C=C1)C(=O)OC(C)(C)C)(F)F | C15H14F3NO2
reactant | trifluoroacetic acid | 67.2 mmol, 5.18 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-trifluoromethylquinoline-6-carboxylic acid | 1.58 g, 98% | FC(C1=NC2=CC=C(C=C2C=C1)C(=O)O)(F)F | C11H6F3NO2
